US07642264B2
2-(3-Methanesulfonyl-phenyl)-4-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine
The title compound was prepared from 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine (example E.83) (0.350 g, 1.0 mmol) and commercially available (3-methylsulfonylphenyl)boronic acid (0.220 g, 1.0 mmol) according to the general procedure VI. Obtained as an off-white solid (0.280 g, 59%). MS (ISP) 470.1 [(M+H)+]; mp 208° C.

reactant | 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine | 1.0 mmol, 0.350 g | ClC1=NC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H11ClF3N3
reactant | (3-methylsulfonylphenyl)boronic acid | 1.0 mmol, 0.220 g | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
product | 2-(3-Methanesulfonyl-phenyl)-4-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine | CS(=O)(=O)C=1C=C(C=CC1)C1=NC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C24H18F3N3O2S
